US07517873B2
To a solution of 2.54 g (0.0077 mole) of (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2-methyl-propanoic acid methyl ester (IV-52) and 40 mL of acetic acid was added 2.5 g (0.0448 g-atom) of iron powder. The mixture was heated at 80 degrees for 3 hours, then filtered through Celite while still hot. The filter cake was washed with 100 mL of ethyl acetate. The filtrate was washed successively with 100 mL of water, 100 mL of 7.4 M ammonium hydroxide, 100 mL of water and 100 mL of brine. The aqueous layers were back extracted with 100 mL of ethyl acetate. The ethyl acetate layers were combined, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The residue was recrystallized from dichloromethane—hexanes to give 1.07 g of (rac)-2-chloro-9-cyclobutyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-52) as white crystalline solid.

reactant | (rac)-3-[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclobutyl-amino]-2-methyl-propanoic acid methyl ester | 0.0077 mole, 2.54 g | COC(C(CN(C1CCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)C)=O | C13H17ClN4O4
catalyst | iron | 2.5 g | [Fe] | Fe
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | (rac)-2-chloro-9-cyclobutyl-7-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 1.07 g | ClC=1N=CC2=C(N(CC(C(N2)=O)C)C2CCC2)N1 | C12H15ClN4O
